US06153752
To a stirred solution of 2.21 g methylhyroxylamine-hydrochloride in 2.90 g water and 0.26 g concentrated aqueous HCl, 5.81 g 3,3-dimethoxy-2-dimethoxymethyl-propionate were fed over a period of 40 minutes. External cooling with an ice-bath was required in order to keep the temperature between 15° C. and 20° C. After stirring for an additional 15 minutes and cooling to 10° C., a non-stirrable white crystal-pap was gained. The needle-shaped crystals were isolated by suction-filtration, washing with a small amount of diisopropylether and drying in vacuo. Further product-fractions could be isolated by evaporation of part of the mother liquor, filtration, washing, and drying. The total amount of methyl-3-keto-isoxazole-4-carboxylate-hydrochloride obtained in this way was 4.60 g (91% theory based on 3,3-dimethoxy-2-dimethoxymethyl-propionate). Identification of the product was based on 1H-NMR-, 13C- and IR-spectra. The 1H-NMR-spectrum did not show any impurities.

reactant | methylhyroxylamine-hydrochloride | 2.21 g | Cl.CNO
reactant | 3,3-dimethoxy-2-dimethoxymethyl-propionate | 5.81 g | COC(C(C(=O)[O-])C(OC)OC)OC
solvent | water | 2.90 g | O | H2O
solvent | HCl | 0.26 g | Cl | ClH
product | methyl-3-keto-isoxazole-4-carboxylate-hydrochloride | Cl.COC(=O)C=1C(NOC1)=O | InChI=1S/C5H5NO4.ClH/c1-9-5(8)3-2-10-6-4(3)7;/h2H,1H3,(H,6,7);1H
